US04886814
N-[2-(4-Carboethoxyphenyl)ethyl]-2-hydroxy-2-(2-benzoylamino-4-methyl-thiazol-5-yl)ethanamine
Prepared analogously to Example 3 by reaction of 2-(4-carboethoxyphenyl)ethylamine and stoichiometric amounts of triethylamine with 2-benzoylamino-4-methyl-5-bromoacetyl-thiazole, followed by reduction and purification of the base on a silica gel column using chloroform/methanol=9:1 as eluant and trituration with petroleum ether.

reactant | 2-(4-carboethoxyphenyl)ethylamine | C(=O)(OCC)C1=CC=C(C=C1)CCN | C11H15NO2
reactant | 2-benzoylamino-4-methyl-5-bromoacetyl-thiazole | C(C1=CC=CC=C1)(=O)NC=1SC(=C(N1)C)C(CBr)=O | C13H11BrN2O2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-[2-(4-Carboethoxyphenyl)ethyl]-2-hydroxy-2-(2-benzoylamino-4-methyl-thiazol-5-yl)ethanamine | C(=O)(OCC)C1=CC=C(C=C1)CCNCC(C1=C(N=C(S1)NC(C1=CC=CC=C1)=O)C)O | C24H27N3O4S
